US05028613
A solution of 20 mg of isobatzelline A in 2 ml of HOAc and 1 ml of dioxane is allowed to react with 20 mg of NaNO2 in 5 ml of H2O at 0° C. for 2 hours. After addition of 3 ml of 1N HCl, the solution was stirred at room temperature overnight, and extracted with 10 ml CHCl3 /MeOH (1:1) twice. The concentrated extract was further fractionated on a Superco LC-NH2 column (50 ml×3 ml) with 1% MeOH/CHCl3, and subsequently purified on a HPLC LiChrosorb-NH2 column (3% MeOH/CHCl3) to give 4 mg of batzelline A.

reactant | isobatzelline A | 20 mg | CN1C2=C3C(=C1SC)CCN=C3C(=C(C2=O)N)Cl | C12H12ClN3OS
reactant | NaNO2 | 20 mg | N(=O)[O-].[Na+]
reactant | HCl | 1N, 3 ml | Cl | ClH
solvent | HOAc | 2 ml | CC(=O)O | C2H4O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 5 ml | O | H2O
product | batzelline A | 4 mg | CN1C2=C3C(=C1SC)CCNC3=C(C(=O)C2=O)Cl | C12H11ClN2O2S
